US06265446B1
A solution of 40.0 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide and 11.2 ml of pyridine in 400 ml of dichlomethane was stirred under a nitrogen atmosphere. 16.3 ml of trifluoroacetic anhydride were added and the mixture was stirred for 10 minutes at room temperature and evaporated. The residue in ethyl acetate was washed with 5% sodium hydrogen carbonate solution, water, 2M aqueous hydrochloric acid and water. The ethyl acetate phase was dried over anhydrous magnesium sulphate and the solvent was evaporated to give 55 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(trifluoroacetyl)-4-methylvalerohydrazide as a dark orange gum.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 40.0 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C25H40N2O3
reactant | trifluoroacetic anhydride | 16.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 11.2 ml | N1=CC=CC=C1 | C5H5N
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(trifluoroacetyl)-4-methylvalerohydrazide | 55 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(C(F)(F)F)=O)CC(C)C)CC(C)C | C27H39F3N2O4
